US07790917B2
In a separable flask having an inner volume of 300 ml, equipped with a reflux condenser, a stirrer, and a thermometer, were charged 20.0 g (0.06 mol) of 1,3-bis(4-hydroxyphenyl)adamantane, 46 g (0.50 mol) of epichlorohydrin, 30 mL of MIBK, and 60 mL of DMSO, and they were heated to 45° C. Then, 5.5 g (0.14 mol) of sodium hydroxide was added into this solution by small portions during a period of 1.5 hours. After completion of the addition, the reaction temperature was raised to 75° C., and the reaction was carried out for 4 hours. After the reaction was completed, the mixture was cooled to room temperature, added by 25 mL of MIBK, and washed with water until the aqueous layer became neutral. The resulting organic layer was concentrated to obtain pale yellow solids. The pale yellow solids were dissolved in 285 g of MEK, added by 3.4 g of 25% by mass of aqueous sodium hydroxide solution, and then the mixture was stirred for 2 hours under reflux. Thereafter, the solution was cooled to room temperature, and washed by water until the aqueous layer became neutral from alkaline. The water-washing was performed two more times, and then the organic layer was concentrated to obtain pale yellow solids, which was recrystallized by a mixed solvent of THF (tetrahydrofuran) and isopropyl ether to obtain 24.1 g of 1,3-bis(4-glycidyloxyphenyl)adamantane having the following formula (purity of 94% by LC (liquid chromatography), epoxy equivalent of 224).

reactant | 1,3-bis(4-hydroxyphenyl)adamantane | 0.06 mol, 20.0 g | OC1=CC=C(C=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC=C(C=C2)O | C22H24O2
reactant | epichlorohydrin | 0.50 mol, 46 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.14 mol, 5.5 g | [OH-].[Na+]
reactant | MEK | 285 g | CCC(=O)C | C4H8O
solvent | MIBK | 25 mL | CC(C)CC(=O)C | C6H12O
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | MIBK | 30 mL | CC(C)CC(=O)C | C6H12O
product | 1,3-bis(4-glycidyloxyphenyl)adamantane | 24.1 g | C(C1CO1)OC1=CC=C(C=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC=C(C=C2)OCC2CO2 | C28H32O4
